US08012976B2
To a suspension of 1H-imidazole-2-carbaldehyde (480 mg, 5 mmol) and potassium carbonate (936 mg, 6 mmol) in N,N-dimethylformamide (7 mL) was added iodoethane (829 mg, 6 mmol) and the mixture was heated at 50° C. for 5 hrs. Solvent was removed under reduced pressure. The residue was partitioned between water (30 mL) and ethyl acetate (30 mL). The aqueous layer was extracted with ethyl acetate (20 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give 1-ethyl-1H-imidazole-2-carbaldehyde as light yellow oil (520 mg, yield 84%). 1H NMR (400 MHz, CDCl3) δ (ppm): 1.42-1.46 (t, J=7.2 Hz, 3H), 4.42-4.47 (q, 2H), 7.19 (s, 1H), 7.29 (s, 1H), 9.82 (s, 1H). LC-MS (ESI) m/z: 125 (M+1)+.

reactant | 1H-imidazole-2-carbaldehyde | 5 mmol, 480 mg | N1C(=NC=C1)C=O | C4H4N2O
reactant | potassium carbonate | 6 mmol, 936 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 6 mmol, 829 mg | ICC | C2H5I
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 1-ethyl-1H-imidazole-2-carbaldehyde | 520 mg, yield 84% | C(C)N1C(=NC=C1)C=O | C6H8N2O
